US08389523B2
45 g (0.14 mol) of ethyl 4-(3-fluoro-4-methylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxylate was dissolved in 1,4-dioxan (300 ml), and a solution of 39 g (0.28 mol) of potassium carbonate and water (300 ml) was added thereto. The solution was stirred for 1 hour at 60° C. The reaction solution was cooled to room temperature, and the solvent was distilled off under reduced pressure. Water was added to the residue thus obtained and was washed with chloroform. Then, the aqueous layer was adjusted to pH 1 by adding 6 N hydrochloric acid, and the aqueous layer was extracted again with chloroform. Anhydrous magnesium sulfate was added to the organic layer to dry the layer, and the solvent was distilled off under reduced pressure to obtain 32 g (yield: 76%) of 4-(3-fluoro-4-methylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxlic acid.

reactant | ethyl 4-(3-fluoro-4-methylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxylate | 0.14 mol, 45 g | FC=1C=C(C=CC1C)N1C2=C(N=C(C1=O)C(=O)OCC)C=CC=N2 | C17H14FN3O3
reactant | potassium carbonate | 0.28 mol, 39 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | 1,4-dioxan | 300 ml | O1CCOCC1 | C4H8O2
product | 4-(3-fluoro-4-methylphenyl)-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxlic acid | 32 g, yield: 76% | FC=1C=C(C=CC1C)N1C2=C(N=C(C1=O)C(=O)O)C=CC=N2 | C15H10FN3O3
